US08049016B2
Preparation of 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Preparation 14, making variations as required to replace ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a colourless solid in 96% yield: 1H NMR (300 MHz, DMSO-d6) δ 4.04-3.98 (m, 2H), 3.58-3.53 (m, 2H), 3.03 (d, J=7.4 Hz, 2H), 2.50 (s, 3H), 1.94-1.85 (m, 1H), 0.87 (d, J=6.6 Hz, 6H); MS (ES+) m/z 283.8 (M+1).

reactant | ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)F | C14H17F2N3O3S
reactant | ethyl 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C14H21N3O3S
product | 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 96% yield | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H17N3O3S
